US04123529
(c) 1-[2-(5-Phenyloxazol-2-yl)-ethyl]-4-phenylpiperazine
N-Phenacyl-3-(4-phenylpiperazine-1-yl)-proponamide (4.03 g; 0.011 mole) was mixed with polyphosphoric acid (36 g) and stirred and heated at 140° C. for 30 minutes. The mixture was dissolved in water (100 ml), cooled, and extracted (2 × 30 ml chloroform). The extracts were discarded and the aqueous phase basified to pH 9 with 50% aqueous NaOH solution. The emulsion formed was extracted with 3 × 100 ml chloroform, the extracts dried and evaporated. The crystalline residue was recrystallised from 60°-80° C. petroleum ether. Yield 2.6 g m.p. 84°-5° C.

reactant | N-Phenacyl-3-(4-phenylpiperazine-1-yl)-proponamide | 0.011 mole, 4.03 g | C(C(=O)C1=CC=CC=C1)NC(CCN1CCN(CC1)C1=CC=CC=C1)=O | C21H25N3O2
solvent | water | 100 ml | O | H2O
product | 1-[2-(5-Phenyloxazol-2-yl)-ethyl]-4-phenylpiperazine | C1(=CC=CC=C1)C1=CN=C(O1)CCN1CCN(CC1)C1=CC=CC=C1 | C21H23N3O
